US07799812B2
c) 3-{4-[3-(2-Trifluoromethyl-biphenyl-4-yl)-[1,2,4]oxadiazol-5-yl]-benzenesulfonylamino}-propionic acid methyl ester
4-(2-Methoxycarbonyl-ethylsulfamoyl)-benzoic acid (1 eq) is dissolved in DMF and EDC.HCl (1.3 eq) and HOBt (1.1 eq) are added. After 30 minutes at room temperature N-hydroxy-2-trifluoromethyl-biphenyl-4-carboxamidine (1 eq) is added and the reaction mixture is kept at 90° C. for 16 hours. After removal of the solvent the residue is dissolved in ethyl acetate and extracted with saturated NaHCO3 solution. Title compound is obtained after drying of the organic phase over Na2SO4 on silica gel using c-hexane/ethyl acetate/CH2Cl2 8/2/1 as mobile phase.

reactant | 4-(2-Methoxycarbonyl-ethylsulfamoyl)-benzoic acid | 1 eq | COC(=O)CCNS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C11H13NO6S
reactant | EDC.HCl | 1.3 eq | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 1.1 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-hydroxy-2-trifluoromethyl-biphenyl-4-carboxamidine | 1 eq | ONC(=N)C1=CC(=C(C=C1)C1=CC=CC=C1)C(F)(F)F | C14H11F3N2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-{4-[3-(2-Trifluoromethyl-biphenyl-4-yl)-[1,2,4]oxadiazol-5-yl]-benzenesulfonylamino}-propionic acid methyl ester | COC(CCNS(=O)(=O)C1=CC=C(C=C1)C1=NC(=NO1)C1=CC(=C(C=C1)C1=CC=CC=C1)C(F)(F)F)=O | C25H20F3N3O5S
